US07238701B2
Step 3. Preparation of Example 203: 2-[4-(1-Benzyl-1H-indazol-5-ylamino)-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidin-7-yl]-ethanol
To a solution of THF (100 mL) was added 4.50 g (9.04 mmol, 1 equiv) of [4-(1-Benzyl-1H-indazol-5-ylamino)-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidin-7-yl]-acetic acid ethyl ester. A 1M solution of diisobutylaluminum hydride in THF (45.2 mL, 45.2 mmol, 5 equiv) was added to the solution at 0° C. and the reaction was stirred for 30 min before warming up to rt and stirring for 2 h. The reaction mixture was quenched with Rochelle's salt followed by EtOAc. The solution was separated and the aqueous layer discarded and the organic layer was washed with brine (200 mL) and water (100 mL). The resulting crude material was purified by flash chromatography eluting with 95/5 CH2Cl2/MeOH yielding 850 mg (21%) of Example 203 as a white solid. 1H-NMR (CD2Cl2) δ 8.36 (s, 1H), 8.08 (d, J=1.8 Hz, 1H), 8.01 (s, 1H), 7.46–7.19 (m, 8H), 5.60 (s, 2H), 3.77 (q, J=4.4 Hz, 2H), 3.21–2.96 (m, 3H), 2.56 (m, 1H), 2.11 (m, 2H), 1.67 (m, 3H), 1.45 (t, J=4.4 Hz, 1H). LCMS RT=2.68 min; [M+H]+=456.3.

reactant | [4-(1-Benzyl-1H-indazol-5-ylamino)-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidin-7-yl]-acetic acid ethyl ester | 9.04 mmol, 4.50 g, 1 equiv | C(C)OC(CC1CC2=C(C3=C(N=CN=C3NC=3C=C4C=NN(C4=CC3)CC3=CC=CC=C3)S2)CC1)=O | C28H27N5O2S
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 45.2 mmol, 45.2 mL, 5 equiv | C1CCOC1 | C4H8O
product | 2-[4-(1-Benzyl-1H-indazol-5-ylamino)-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidin-7-yl]-ethanol | C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)SC1=C2CCC(C1)CCO | C26H25N5OS
